US08729061B2
(2S,4R)—N—((S)-1-(butylamino)-1,2-dioxopentan-3-yl)-1-(1-(5-chloro-3-fluoropyridin-2-yl)cyclopropanecarbonyl)-4-(2-chlorophenylsulfonyl)pyrrolidine-2-carboxamide
The title compound was prepared in analogy to Example 1, using (2S,4R)-4-(2-Chloro-benzenesulfonyl)-1-[1-(5-chloro-3-fluoro-pyridin-2-yl)-cyclopropanecarbonyl]-pyrrolidine-2-carboxylic acid and (S)-3-Amino-2-oxo-pentanoic acid butylamide in step 1. MS (m/e)=655.15 [M+H+].

reactant | (2S,4R)-4-(2-Chloro-benzenesulfonyl)-1-[1-(5-chloro-3-fluoro-pyridin-2-yl)-cyclopropanecarbonyl]-pyrrolidine-2-carboxylic acid | ClC1=C(C=CC=C1)S(=O)(=O)[C@@H]1C[C@H](N(C1)C(=O)C1(CC1)C1=NC=C(C=C1F)Cl)C(=O)O | C20H17Cl2FN2O5S
reactant | (S)-3-Amino-2-oxo-pentanoic acid butylamide | C(CCC)NC(C([C@H](CC)N)=O)=O | C9H18N2O2
product | (2S,4R)—N—((S)-1-(butylamino)-1,2-dioxopentan-3-yl)-1-(1-(5-chloro-3-fluoropyridin-2-yl)cyclopropanecarbonyl)-4-(2-chlorophenylsulfonyl)pyrrolidine-2-carboxamide | C(CCC)NC(C([C@H](CC)NC(=O)[C@H]1N(C[C@@H](C1)S(=O)(=O)C1=C(C=CC=C1)Cl)C(=O)C1(CC1)C1=NC=C(C=C1F)Cl)=O)=O | C29H33Cl2FN4O6S
